US07109216B2
To a cooled (−20° C.) and magnetically stirred solution of tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate (10.59 g, 25.0 mmol), in anhydrous THF (100 ml) was added LDA (15.0 ml, 2 M solution in heptane/THF, 30.0 mmol) and the resulting mixture was stirred for 1 hour under N2. A solution of (CH3S)2 (2.7 ml, 30.0 mmol) in THF (20 ml) was added and the resulting solution was successively stirred at −40° C. for 1 h, allowed to attain room temperature and stirred for another 16 h. A saturated aqueous NH4Cl solution (250 ml) was added and the resulting solution was extracted twice with ethyl acetate (EtOAc). The combined organic layers were washed with water, dried over MgSO4, filtered and concentrated to give tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfanyl-1H-imidazole-4-carboxylate in 90% yield as an oil which slowly solidified; 1H-NMR (200 MHz, CDCl3) δ 1.66 (s, 9H), 2.28 (s, 3H), 7.05 (br d, J˜8 Hz, 2H), 7.25 (dd, J=8 and 2 Hz, 1H), 7.28 (d, J=2 Hz, 1H), 7.32–7.41 (m, 3H).

reactant | tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate | 25.0 mmol, 10.59 g | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C20H17Cl3N2O2
reactant | LDA | 30.0 mmol, 2 M, 15.0 ml | [Li+].CC(C)[N-]C(C)C
reactant | (CH3S)2 | 30.0 mmol, 2.7 ml | CSSC | C2H6S2
reactant | NH4Cl | 250 ml | [NH4+].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfanyl-1H-imidazole-4-carboxylate | 90% yield | ClC1=CC=C(C=C1)N1C(=NC(=C1SC)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C21H19Cl3N2O2S
